US05994563
2-Methoxy-5-nitrobenzaldehyde
2-Hydroxy-5-nitrobenzaldehyde (2.40 g, 14.0 mmol) was dissolved in dimethylformamide (50 mL). To this was added iodomethane (4.48 ml, 72.0 mmol) and sodium carbonate (3.04 g, 28.0 mmol). This mixture was stirred for 24 hours and was poured into water. The solid was collected by filtration to give 2.38 g (93.0%). Mp 88-89° C.;1H NMR (CDCl3): d, 10.46 (s,1H), 8.69 (d,1H), 8.45 (dd,1H), 7.15 (d,1H), 4.10 (s,3H). MS (DCl): 182 (MH+). C8H7NO4.

reactant | 2-Hydroxy-5-nitrobenzaldehyde | 14.0 mmol, 2.40 g | OC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H5NO4
reactant | iodomethane | 72.0 mmol, 4.48 ml | IC | CH3I
reactant | sodium carbonate | 28.0 mmol, 3.04 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 2-Methoxy-5-nitrobenzaldehyde | COC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C8H7NO4
